US08026366B2
A mixture of 4-amino-2-ethylthiazolo[4,5-c]quinolin-7-ol (245 mg, 1.0 mmol), cesium carbonate (1.3 g, 4.0 mmol), and DMF (20 mL) was stirred at 75° C. for 10 minutes. {[4-(Bromomethyl)phenyl]sulfonyl}[2-(indol-3-yl)ethyl]amine (432 mg, 1.1 mmol) was added in portions over a period of 30 minutes. Several small additions of {[4-(bromomethyl)phenyl]sulfonyl}[2-(indol-3-yl)ethyl]amine were made over several hours. The reaction mixture was diluted with water (250 mL) and then extracted with chloroform (3×100 mL). The extracts were combined and concentrated under reduced pressure. The residue was purified by HPFC eluting with a gradient of 0-20% CMA in chloroform over 700 mL and then with 20% CMA in chloroform over 400 mL. The resulting solid was recrystallized from 100:1 acetonitrile:water to provide 6 mg of 4-{[(4-amino-2-ethylthiazolo[4,5-c]quinolin-7-yl)oxy]methyl}-N-[2-(1H-indol-2-yl)ethyl]benzenesulfonamide as an off-white solid, mp 100.0-101.0° C. MS (APCI) m/z 558 (M+H)+; Anal. calcd for C29H27N5O3S2: C, 62.46; H, 4.88; N, 12.56. Found C, 62.27; H, 4.63; N, 12.73.

reactant | 4-amino-2-ethylthiazolo[4,5-c]quinolin-7-ol | 1.0 mmol, 245 mg | NC1=NC=2C=C(C=CC2C2=C1N=C(S2)CC)O | C12H11N3OS
reactant | cesium carbonate | 4.0 mmol, 1.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
reactant | {[4-(Bromomethyl)phenyl]sulfonyl}[2-(indol-3-yl)ethyl]amine | 1.1 mmol, 432 mg | BrCC1=CC=C(C=C1)S(=O)(=O)NCCC1=CNC2=CC=CC=C12 | C17H17BrN2O2S
solvent | water | 250 mL | O | H2O
product | 4-{[(4-amino-2-ethylthiazolo[4,5-c]quinolin-7-yl)oxy]methyl}-N-[2-(1H-indol-2-yl)ethyl]benzenesulfonamide | 6 mg | NC1=NC=2C=C(C=CC2C2=C1N=C(S2)CC)OCC2=CC=C(C=C2)S(=O)(=O)NCCC=2NC1=CC=CC=C1C2 | C29H27N5O3S2
